US04596858
Preparation of N-n-butyl methacrylamide (NBMAM)
In a 1 liter 3-necked flask were combined 400 ml dry THF and 40 ml distilled n-butylamine (0.405 mol). After cooling to 5° C. in an ice bath, 20 ml (0.205 mol) methacryloyl chloride was added slowly so as to keep the temperature below 10° C. The precipitate was removed by filtration, and the filtrate concentrated on a rotary evaporator. 1 g DNPD was added and the oil distilled at 76°-78° C. and 20 m torr. Yield 24.3 g (84%).

reactant | n-butylamine | 0.405 mol | C(CCC)N | C4H11N
reactant | methacryloyl chloride | 0.205 mol, 20 ml | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | N-n-butyl methacrylamide | C(CCC)NC(C(=C)C)=O | C8H15NO
